US08937091B2
2-furyl vinylketone 8512
Acryloyl chloride (0.45 g), furan (0.34 g), and AlCl3 (0.66 g) were reacted in CH2Cl2 at −60° C.

reactant | Acryloyl chloride | 0.45 g | C(C=C)(=O)Cl | C3H3ClO
reactant | furan | 0.34 g | O1C=CC=C1 | C4H4O
reactant | AlCl3 | 0.66 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-furyl vinylketone | O1C(=CC=C1)C(=O)C=C | C7H6O2
